US04752645
(B) (cis)-1-[2-(Dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-propyl-6-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride
To 1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-propyl-6-(trifluoromethyl)-2H-1-benzazepin-2-one (4.23 g; 11.21 mmole), potassium bicarbonate (4.49 g; 44.8 mmole; 4 eq.), and potassium iodide (catalytic amount) suspended in methylethyl ketone (70 ml) was added a 2.15M solution of 2-dimethylaminoethyl chloride (12.6 ml; 27.0 mmole; 2.4 eq.) in toluene with stirring. The mixture was refluxed for 10.5 hours, then concentrated. The residue as dissolved into ethyl acetate and washed with water. The organic layer was dried (magnesium sulfate) and concentrated. The residue was flash chromatographed (silica gel column/0.5% methanol:dichloromethane followed by 2.0% methanol:dichloromethane) and appropriate fractions were combined and concentrated. The residue was dissolved in ether and hydrogen chloride saturated ether was added. The mixture was concentrated, and coevaporated with ether several times. The solid was partitioned between ether and 1N sodium bicarbonate. The ether layer was dried (magnesium sulfate) and concentrated. After standing overnight, the solid residue was much less soluble in ether. The solid was triturated in ether and the mixture was centrifuged and a solid was obtained. Conversion to the hydrochloride salt using hydrogen chloride saturated ether yielded the title compound, melting point 180.5°-182.5° C.

reactant | 1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-propyl-6-(trifluoromethyl)-2H-1-benzazepin-2-one | 11.21 mmole, 4.23 g | COC1=CC=C(C=C1)C1C(C(NC2=C(C1)C(=CC=C2)C(F)(F)F)=O)CCC | C21H22F3NO2
reactant | potassium bicarbonate | 44.8 mmole, 4.49 g, 4 eq. | C([O-])(O)=O.[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 2-dimethylaminoethyl chloride | 27.0 mmole, 12.6 ml, 2.4 eq. | CN(CCCl)C | C4H10ClN
reactant | hydrogen chloride | Cl | ClH
solvent | methylethyl ketone | 70 ml | CC(=O)CC | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (cis)-1-[2-(Dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-propyl-6-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride | Cl.CN(CCN1C([C@H]([C@H](CC2=C1C=CC=C2C(F)(F)F)C2=CC=C(C=C2)OC)CCC)=O)C | InChI=1S/C25H31F3N2O2.ClH/c1-5-7-19-20(17-10-12-18(32-4)13-11-17)16-21-22(25(26,27)28)8-6-9-23(21)30(24(19)31)15-14-29(2)3;/h6,8-13,19-20H,5,7,14-16H2,1-4H3;1H/t19-,20+;/m0./s1
